US08124617B2
To a solution (60 ml) of methyl 5-hydroxy-3-isopropoxybenzoate (2.0 g) and 3-(pyridin-3-yl)propanol (1.6 g) in THF were added successively 1,1′-(azodicarbonyl)dipiperidine (2.9 g) and tributylphosphine (2.8 ml) under ice-cooling, and the mixture was stirred overnight at room temperature. n-Hexane (100 ml) was added to the reaction mixture, and the precipitated crystals were removed by filtration. The filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography (LL, Biotage cartridge, ethyl acetate:n-hexane=15:85→1:4) to give methyl 3-isopropoxy-5-(3-pyridin-3-ylpropoxy)benzoate (2.70 g, 86%) as a colorless oil.

reactant | methyl 5-hydroxy-3-isopropoxybenzoate | 60 ml, 2.0 g | OC=1C=C(C=C(C(=O)OC)C1)OC(C)C | C11H14O4
reactant | 3-(pyridin-3-yl)propanol | 1.6 g | N1=CC(=CC=C1)CCCO | C8H11NO
reactant | 1,1′-(azodicarbonyl)dipiperidine | 2.9 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | tributylphosphine | 2.8 ml | C(CCC)P(CCCC)CCCC | C12H27P
solvent | THF | C1CCOC1 | C4H8O
solvent | n-Hexane | 100 ml | CCCCCC | C6H14
product | methyl 3-isopropoxy-5-(3-pyridin-3-ylpropoxy)benzoate | 2.70 g, 86% | C(C)(C)OC=1C=C(C(=O)OC)C=C(C1)OCCCC=1C=NC=CC1 | C19H23NO4
